US07235555B2
c) [3-(4-Benzyl-4,7-diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-acetic acid ethyl ester
(3-Trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester (500 mg, 1.38 mmol) is dissolved under an atmosphere of argon in dry THF (10 ml). 4-Benzyl-4,7-diaza -spiro[2.5]octane (325 mg, 1.61 mmol) is added, followed by the addition of K3PO4 (410 mg, 1.93 mmol), Pd2(dba)3 (62 mg, 0.069 mmol) and biphenyl-2-yl-di-tert-butyl-phosphane (21 mg, 0.069 mmol). The reaction mixture is heated to 80° C. After 4 h, TLC analysis indicates complete consumption of starting materials. The reaction mixture is cooled to RT, filtered and concentrated. The residue is purified by FCC (hexanes/EtOAc 100:0 to 90:10 to 80:20 to 70:30 to 0:100) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 0.69 (ddd, 2H), 0.86 (ddd, 2H), 1.24 (t, J=7.0 Hz, 3H), 3.09 (ddd, 2H), 3.19 (s, 2H), 3.31 (ddd, 2H), 3.39 (s 2H), 4.02 (s, 2H), 4.17 (q, J=7.0 Hz, 2H), 7.08 (s, 1H), 7.21 (s, 1H), 7.33 (m, 6H), 7.42 (dd, J=8.8 Hz, 1H), 7.71 (d, J=8.8 Hz, 1H), 7.88 (d, J=8.8 Hz, 1H); ES-MS: 415 [M+H]+.

reactant | (3-Trifluoromethanesulfonyloxy-naphthalen-1-yl)-acetic acid ethyl ester | 1.38 mmol, 500 mg | C(C)OC(CC1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)=O | C15H13F3O5S
reactant | 4-Benzyl-4,7-diaza -spiro[2.5]octane | 1.61 mmol, 325 mg | C(C1=CC=CC=C1)N1C2(CC2)CNCC1 | C13H18N2
reactant | K3PO4 | 1.93 mmol, 410 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | biphenyl-2-yl-di-tert-butyl-phosphane | 0.069 mmol, 21 mg | C1(=C(C=CC=C1)P(C(C)(C)C)C(C)(C)C)C1=CC=CC=C1 | C20H27P
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.069 mmol, 62 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | [3-(4-Benzyl-4,7-diaza-spiro[2.5]oct-7-yl)-naphthalen-1-yl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC2=CC=CC=C12)N1CCN(C2(CC2)C1)CC1=CC=CC=C1)=O | C27H30N2O2
